US07868177B2
A resealable pressure vial, under nitrogen, was charged with 4-(2-(4-isothiocyanatophenoxy)pyridin-3-yl)-2-(methylthio)pyrimidine (1.12 g, 3.18 mmol), PS-DCC (1.27 mmol/g polymer supported cyclohexyl carbodiimide) (7.50 g, 9.53 mmol), 4,5-difluorobenzene-1,2-diamine (0.69 g, 4.77 mmol), and THF (45 ml, 0.07 M). The vessel was sealed and the reaction mixture stirred at 70° C. for 4 h. The reaction mixture was cooled to RT, diluted with DCM, and filtered over celite. The filtrate was concentrated to afford yellow residue, which was triturated with DCM, filtered, and dried under high vacuum to afford 5,6-difluoro-N-(4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine as a tan solid. MS m/z=463.1 [M+H]+. Calc'd for C23H16F2N6OS: 462.48.

reactant | 4-(2-(4-isothiocyanatophenoxy)pyridin-3-yl)-2-(methylthio)pyrimidine | 3.18 mmol, 1.12 g | N(=C=S)C1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)SC)C=C1 | C17H12N4OS2
reactant | DCC | 9.53 mmol, 7.50 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4,5-difluorobenzene-1,2-diamine | 4.77 mmol, 0.69 g | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
reactant | THF | 0.07 M, 45 ml | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5,6-difluoro-N-(4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)SC)C=C1F | C23H16F2N6OS
